US07825265B2
Acetic acid 4-(2-phenyl-tetrahydro-pyran-2-yl)-phenyl ester
4-(2-Phenyl-tetrahydro-pyran-2-yl)-phenol (500 mg, 2 mmol) was dissolved in pyridine (10 mL). Acetic anhydride (1 mL) was added at drop wise at 0° C. The reaction temperature was allowed to raise to room temperature. After 1 h the reaction was quenched the addition of water (5 mL). Dichloromethane (20 mL) was added. The organic phase was washed with aqueous HCl (1M, 2×10 mL), brine (10 mL), dried (Na2SO4) and concentrated in vacuo. Purified on a short column (eluent: dichloromethane). Yield: 560 mg.

reactant | 4-(2-Phenyl-tetrahydro-pyran-2-yl)-phenol | 2 mmol, 500 mg | C1(=CC=CC=C1)C1(OCCCC1)C1=CC=C(C=C1)O | C17H18O2
reactant | Acetic anhydride | 1 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | Acetic acid 4-(2-phenyl-tetrahydro-pyran-2-yl)-phenyl ester | C1(=CC=CC=C1)C1(OCCCC1)C1=CC=C(C=C1)OC(C)=O | C19H20O3
